US04331674
316 g (2 mol) of 4-bromo-2,2-dimethyl-3-keto-butanoic acid ethyl ester were added dropwise, at 30° C., to 246 g (2 mol) of 4-chlorophenol and 210 g of potassium carbonate in 1,000 ml of dimethylformamide. The mixture was stirred for 20 hours at room temperature and 2 hours at 40° C. The reaction mixture was then introduced into 2,000 ml of water. The aqueous phase was extracted by shaking twice with 500 ml of methylene chloride at a time and the organic phase was extracted by shaking twice with 250 ml of water each time. The combined organic phases were dried, concentrated and distilled. 324 g (56% of theory) of 4-(4-chlorophenoxy)-2,2-dimethyl-3-keto-butanoic acid ethyl ester of melting point 125-135° C./0.1 mm Hg were obtained.

reactant | 4-bromo-2,2-dimethyl-3-keto-butanoic acid ethyl ester | 2 mol, 316 g | C(C)OC(C(C(CBr)=O)(C)C)=O | C8H13BrO3
reactant | 4-chlorophenol | 2 mol, 246 g | ClC1=CC=C(C=C1)O | C6H5ClO
reactant | potassium carbonate | 210 g | C([O-])([O-])=O.[K+].[K+]
reactant | water | 2,000 ml | O | H2O
solvent | dimethylformamide | 1,000 ml | CN(C=O)C | C3H7NO
product | 4-(4-chlorophenoxy)-2,2-dimethyl-3-keto-butanoic acid ethyl ester | 324 g, 56% | C(C)OC(C(C(COC1=CC=C(C=C1)Cl)=O)(C)C)=O | C14H17ClO4
